US05308857
A mixture of 3-acetoxypropionic acid (2.5 g), diphenylphosphorylazide (4.3 ml) and triethylamine (2.6 ml) in dry benzene (50 ml) was stirred for an hour at 75° to 80° C. To the mixture was added to a mixture of 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole (3.0 g) in a solution of tetrahydrofuran (45 ml) and methanol (45 ml) at ambient temperature, and the mixture was stirred for 2.5 hours at the same temperature. Evaporation of a solvent gave a residue, which was purified by column chromatography on silica gel eluting with a mixture of ethyl acetate and methanol (9:1, V/V). The eluted fractions containing the desired product were collected and evaporated in vacuo. The residue was recrystallized from a mixture of methanol, dioxane and isopropyl ether to give 4-[5-{3-(2-acetoxyethyl)ureido}methylfuran-2-yl]-2-(diaminomethyleneamino)thiazole (1.82 g).

reactant | 3-acetoxypropionic acid | 2.5 g | C(C)(=O)OCCC(=O)O | C5H8O4
reactant | diphenylphosphorylazide | 4.3 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole | 3.0 g | NCC1=CC=C(O1)C=1N=C(SC1)N=C(N)N | C9H11N5OS
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 45 ml | CO | CH4O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 4-[5-{3-(2-acetoxyethyl)ureido}methylfuran-2-yl]-2-(diaminomethyleneamino)thiazole | 1.82 g | C(C)(=O)OCCNC(NCC1=CC=C(O1)C=1N=C(SC1)N=C(N)N)=O | C14H18N6O4S
